US07601868B2
4′-chloro-N-(2-{4-[2-(diethylamino)ethoxy]phenyl}ethyl)[1,1′-biphenyl]-4-carboxamide
To a solution of 4′-chloro-N-[2-(4-methoxyphenyl)ethyl][1,1′-biphenyl]-4-carboxamide (700 mg, 1.91 mmol) obtained in Reference Example 22 in dichloromethane (10 ml) was added dropwise 1.0 mol/l solution (4.21 ml, 4.21 mmol) of boron tribromide in dichloroethane at 0° C., and the mixture was stirred at room temperature for 15 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate, and the extract was dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure to give a demethylated compound (620 mg). A solution of 4′-chloro-N-[2-(4-hydroxyphenyl)ethyl][1,1′-biphenyl]-4-carboxamide (620 mg), N-(2-chloroethyl)-N,N-diethylamine hydrochloride (364 mg, 2.11 mmol) and potassium carbonate (876 mg, 6.34 mmol) in dimethylformamide (10 ml) was stirred at room temperature for 6 hrs and at 100° C. for 4 days. Ethyl acetate was added to the reaction mixture, and the mixture was washed with 1N aqueous sodium hydroxide solution and brine, and dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure, and the obtained residue was purified by NH-silica column chromatography (developing solvent; chloroform:ethyl acetate:hexane=1:1:2), and powderized with isopropyl ether to give the title compound (318 mg).

reactant | 4′-chloro-N-[2-(4-hydroxyphenyl)ethyl][1,1′-biphenyl]-4-carboxamide | 620 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)NCCC1=CC=C(C=C1)O | C21H18ClNO2
reactant | N-(2-chloroethyl)-N,N-diethylamine hydrochloride | 2.11 mmol, 364 mg | Cl.ClCCN(CC)CC
reactant | potassium carbonate | 6.34 mmol, 876 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4′-chloro-N-(2-{4-[2-(diethylamino)ethoxy]phenyl}ethyl)[1,1′-biphenyl]-4-carboxamide | 318 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)NCCC1=CC=C(C=C1)OCCN(CC)CC | C27H31ClN2O2
